US05185346
7 Parts of N-[4-(1H-imidazol-1-ylmethyl)phenyl]-3-oxobutanamide were added dropwise to 73.6 parts of concentrated sulfuric acid (exothermic reaction, the temperature rose to 90° C.). Upon complete addition, the mixture was stirred for 1 hour at 70° C. The reaction mixture was poured into crushed ice and the whole was neutralized with an ammonium hydroxide solution to pH 9. The precipitated product was filtered off and taken up in water. The whole was extracted with dichloromethane. The aqueous layer was concentrated. The crystallized product was filtered off, washed with 2-propanone and dried in vacuo at 100° C., yielding 2.25 parts (34.8%) of 6-(1H-imidazol-1-ylmethyl)-4-methyl-2(1H)-quinolinone; mp. 266.0° C. (compound 1).

reactant | N-[4-(1H-imidazol-1-ylmethyl)phenyl]-3-oxobutanamide | N1(C=NC=C1)CC1=CC=C(C=C1)NC(CC(C)=O)=O | C14H15N3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 6-(1H-imidazol-1-ylmethyl)-4-methyl-2(1H)-quinolinone | 34.8% | N1(C=NC=C1)CC=1C=C2C(=CC(NC2=CC1)=O)C | C14H13N3O
